* /home/sumanto/videos/xor_xnor/xor_xnor.cir

m2  a b xnor gnd mosfet_n
m6  xnor a b gnd mosfet_n
v1  a gnd pulse(0 3.3 0.1u 0.1u 0.1u 1m 2m)
m4  xor xnor gnd gnd mosfet_n
m3  xnor xor vdd vdd mosfet_p
v3 vdd gnd  dc 3.3
v2  b gnd pulse(0 3.3 0.1u 0.1u 0.1u 2m 4m)
m5  xor a b vdd mosfet_p
m1  xor b a vdd mosfet_p
.tran 0.1e-03 20e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
